US07662972B2
4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylthio-N-(2-pyridylmethyl)benzoic acid amide (Compound of the Present Invention No. 5-323)
In a solution of 0.92 g of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-fluoro-N-(2-pyridylmethyl)benzoic acid amide (Compound of the present invention No. 5-041) synthesized similarly to Synthetic Example 4 in 12 ml of dimethylsulfoxide, 0.12 g of sodium methane thiolate was added with stirring at room temperature, and stirred at 100° C. for 90 minutes. After the completion of the reaction, the reaction mixture was poured in 30 ml of water, and extracted with ethyl acetate (20 ml×3). The organic phase was washed with 30 ml of water, dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with chloroform, and 0.89 g of the aimed product was obtained as colorless oily substance.

reactant | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-fluoro-N-(2-pyridylmethyl)benzoic acid amide | 0.92 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)F)C(F)(F)F | C23H15Cl2F4N3O2
reactant | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
solvent | water | 30 ml | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylthio-N-(2-pyridylmethyl)benzoic acid amide | 0.89 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC2=NC=CC=C2)C=C1)SC)C(F)(F)F | C24H18Cl2F3N3O2S
